US08084449B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({2-[3-(4-piperidinylmethyl)phenyl]-4-pyridinyl}methyl)-2,6-pyridinedicarboxamide
To 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid (50 mg, 0.110 mmol) was added 1,1-dimethylethyl 4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-1-piperidinecarboxylate (42.2 mg, 0.110 mmol) followed by HBTU (50.3 mg, 0.133 mmol) and TEA (30.8 μl, 0.221 mmol) in dichloromethane (DCM) (1105 μL) to give a reaction mixture. This was stirred at room temperature overnight. Then the reaction was quenched with H2O (1 drop) and the solvent was removed by Glas-Col. The crude product was redissolved in MeOH/DMSO (1/1) and purified using a Gilson HPLC (acidic condition). Product-containing fractions were combined and evaporated by GeneVac EZ-2 evaporator. To this residue was added TFA (0.170 mL, 2.21 mmol) in dichloromethane (0.2 mL) and the mixture was placed in the Glas-Col evaporator overnight. Then it was redissolved in MeOH/DMSO and purified using a Gilson HPLC (acidic condition). Product-containing fractions were combined and evaporated by GeneVac EZ-2 evaporator, basified by cartridge to afford 25.4 mg (31%) of the title compound. LC-MS m/z 716 (M+H)+.

reactant | 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 0.110 mmol, 50 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
reactant | 1,1-dimethylethyl 4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-1-piperidinecarboxylate | 0.110 mmol, 42.2 mg | NCC1=CC(=NC=C1)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C23H31N3O2
reactant | HBTU | 0.133 mmol, 50.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | TFA | 2.21 mmol, 0.170 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1105 μL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({2-[3-(4-piperidinylmethyl)phenyl]-4-pyridinyl}methyl)-2,6-pyridinedicarboxamide | 25.4 mg, 31% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC2=CC(=NC=C2)C2=CC(=CC=C2)CC2CCNCC2)CC | C41H49N9O3
